US05053053
Preparation of 2-(β-hydroxyethylthio)-1,4-benzoquinone (Formula IV(B): R=CH2CH2OH, R21 =H)
2-Mercaptoethanol (25.9 ml, 0.368 mole) is added in a single amount to a suspension of p-benzoquinone (80 g, 0.736 mole) in absolute ethanol (500 ml), with stirring and while bubbling nitrogen through the suspension. The temperature rises from 22° C. to 45° C. within 30 seconds and the mixture becomes a homogeneous red-brown. At the end of 15 minutes, a precipitate appears. The mixture is left to stand with stirring for 2 hours and filtered through a no. 4 frit. The orange-red precipitate is washed with 3×50 ml of cold ethanol and dried. Orange crystals are obtained

reactant | 2-Mercaptoethanol | 0.368 mole, 25.9 ml | SCCO | C2H6OS
reactant | p-benzoquinone | 0.736 mole, 80 g | C1(C=CC(C=C1)=O)=O | C6H4O2
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 2-(β-hydroxyethylthio)-1,4-benzoquinone | OCCSC=1C(C=CC(C1)=O)=O | C8H8O3S
